US09428490B2
(Z)-3-(3-(3,5-Bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid (1.0 g, 1.0 eq.) was dissolved in DCM (50 mL) and cooled to −60° C. where (9H-fluoren-9-yl)methyl 3-azabicyclo[3.1.0]hexan-6-ylcarbamate (1.09 g, 1.2 eq.), T3P (50% in EtOAc) (2.02 mL, 1.2 eq.) and DIPEA (0.95 mL, 2 eq.) was added. The clear reaction mixture was stirred at −60° C. for 1 h, quenched with water, and extracted with DCM. The organic layer was dried over sodium sulphate, concentrated under reduced pressure (25° C., 20 mm Hg) to afford the crude product, which was purified by chromatography (2% Methanol in DCM) to yield (Z)-(9H-fluoren-9-yl)methyl (3-(3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acryloyl)-3-azabicyclo[3.1.0]hexan-6-yl)carbamate (1.26 g, 69% yield).

reactant | (Z)-3-(3-(3,5-Bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 1.0 g, 1.0 eq. | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)O)(F)F | C13H7F6N3O2
reactant | (9H-fluoren-9-yl)methyl 3-azabicyclo[3.1.0]hexan-6-ylcarbamate | 1.09 g, 1.2 eq. | C12CNCC2C1NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C20H20N2O2
reactant | T3P | 2.02 mL, 1.2 eq. | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | DIPEA | 0.95 mL, 2 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (Z)-(9H-fluoren-9-yl)methyl (3-(3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acryloyl)-3-azabicyclo[3.1.0]hexan-6-yl)carbamate | 1.26 g, 69% yield | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)N1CC2C(C2C1)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)(F)F | C33H25F6N5O3
